US08809538B2
tert-Butyl 4-carbamoyl-4-methylpiperidine-1-carboxylate
1-Ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (0.284 g) was added to a mixture of 1-hyroxybenzotriazole hydrate (0.227 g) and 1-(tert-butoxycarbonyl)-4-methylpiperidine-4-carboxylic acid (0.300 g) in dichloromethane (6 mL). Diisopropylethylamine (0.644 mL) was added and the reaction was stirred overnight. Ammonia (7 mol/L; 5.28 mL) in methanol was syringed in and the reaction was stirred for 2 hours at room temperature. The volatiles were removed in vacuo. The residue was suspended in ethyl acetate (500 mL) and stirred for 15 minutes with a saturated ammonium chloride solution (250 mL). The layers were separated and the organic layer was washed with a saturated aqueous sodium bicarbonate solution (300 mL). The aqueous phase was extracted once with ethyl acetate (200 mL). The combined organics were dried with magnesium sulfate, and then concentrated to afford the title compound as a tan solid (0.299 g) with the following physical data.

reactant | 1-Ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 0.284 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hyroxybenzotriazole hydrate | 0.227 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(tert-butoxycarbonyl)-4-methylpiperidine-4-carboxylic acid | 0.300 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C | C12H21NO4
reactant | Diisopropylethylamine | 0.644 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Ammonia | 7 mol/L, 5.28 mL | N | H3N
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | tert-Butyl 4-carbamoyl-4-methylpiperidine-1-carboxylate | 0.299 g | C(N)(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C | C12H22N2O3
